US08242116B2
1-[(Methylsulfonyl)methyl]-4-nitrobenzene
To a stirred solution of 4-nitrobenzyl bromide (10.0 g, 46.3 mmol) in DMF (25 mL) was added sodium methanesulfinate (7.1 g, 69.4 mmol). The reaction mixture was stirred at 65° C. for 30 minutes, and then partitioned between water (30 mL) and EtOAc (30 mL). The organic fraction was separated, washed with water (2×30 ml), dried (Na2SO4), filtered and concentrated in vacuo to give the title compound (7.5 g, 75%) as a yellow solid that was used without further purification. δH (DMSO-d6) 8.28 (2H, d, J 8.8 Hz), 7.70 (2H, d, J 8.8 Hz), 4.72 (2H, s), 2.97 (3H, s).

reactant | 4-nitrobenzyl bromide | 46.3 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | sodium methanesulfinate | 69.4 mmol, 7.1 g | CS(=O)[O-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-[(Methylsulfonyl)methyl]-4-nitrobenzene | 7.5 g, 75% | CS(=O)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO4S
